US07713994B2
(4Z)-4-({[3-(2-Pyrrolidin-1-ylethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
Prepared from a solution of 0.256 g (1.26 mmol) of 4-methoxymethylene-4H-isoquinoline-1,3-dione and 0.240 g (1.26 mmol) of 3-(2-pyrrolidin-1-yl-ethyl)-phenylamine in 4 mL of N,N-dimethylformamide (DMF) at 100° C. under N2 as described for example 21. After heating for 1 h, solvent is removed and the residue is filtered through Magnesol (20% MeOH in CHCl3). Solvent evaporation gave 0.420 g (92%) of a red glass: 1H NMR (DMSO-d6) δ 12.40 (d, 1H, J=9.0 Hz), 11.33 (s, 1H), 8.90 (d, 1H, J=9.0 Hz), 8.17 (d, 1H, J=6.0 Hz), 8.03 (d, 1H, J=6.0 Hz), 7.62 (m, 1H), 7.46 (s, 1H), 7.30 (m, 3H), 7.04 (d, 1H, J=6.0 Hz), 2.70 (m, 4H), 2.50 (m, 4H), 1.67 (m, 4H); HRMS (ESI) m/z calcd for C22H23N3O2 362.18631. found 362.18574 (M+H)−1; Analysis for C22H23N3O2.0.75H2O; Calcd: C, 70.46; H, 6.60; N, 11.21. Found: C, 70.83; 6.61; N, 11.24.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 1.26 mmol, 0.256 g | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 3-(2-pyrrolidin-1-yl-ethyl)-phenylamine | 1.26 mmol, 0.240 g | N1(CCCC1)CCC=1C=C(C=CC1)N | C12H18N2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[3-(2-Pyrrolidin-1-ylethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.420 g, 92% | N1(CCCC1)CCC=1C=C(C=CC1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C22H23N3O2
